US07838674B2
7,9-Dioxo-2,6-diaza-spiro[3.5]nonane-2,8-dicarboxylic acid 2-tert-butyl ester 8-methyl ester
Sodium metal (870 mg; 38 mmol) is dissolved in methanol (55 ml) and combined with a solution of 3-[(2-ethoxycarbonyl-acetylamino)-methyl]-azetidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester in toluene (165 ml). The reaction mixture is heated to 90° C. for 1 hour, cooled to 7-9° C. and the precipitated white crystals (Na-salt of title compound) filtered off. The crystals are dissolved in water, acidified by the addition of 2N HCl and extracted with CH2Cl2 three times. The combined organic phases are dried over Na2SO4, filtered, evaporated and yield the title compound as white crystals (5.6 g; 48%). A second crop of the title compound is obtained by evaporating the above toluene/methanol filtrate to almost dryness, taking up the resin in 2N HCl and extracting with CH2Cl2 three times. The combined organic phases are dried over Na2SO4, filtered, evaporated and yielded the second crop of title compound as brownish solid (3.22 g; 27%).

reactant | Sodium | 38 mmol, 870 mg | [Na] | Na
reactant | 3-[(2-ethoxycarbonyl-acetylamino)-methyl]-azetidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | COC(=O)C1(CN(C1)C(=O)OC(C)(C)C)CNC(CC(=O)OCC)=O | C16H26N2O7
solvent | methanol | 55 ml | CO | CH4O
solvent | toluene | 165 ml | C1(=CC=CC=C1)C | C7H8
product | 7,9-Dioxo-2,6-diaza-spiro[3.5]nonane-2,8-dicarboxylic acid 2-tert-butyl ester 8-methyl ester | 5.6 g, 48% | COC(=O)C1C(NCC2(CN(C2)C(=O)OC(C)(C)C)C1=O)=O | C14H20N2O6
